US04544501
In a similar manner 0.025 moles of P,P-bis(2,2-dimethyl-1-aziridinyl)thiophosphinic bromide and about 170 ml of THF are treated by dropwise addition with 0.02 moles of 3-dimethylaminopropyl amine in 25 millimeters of THF stirred for several hours at ambient temperature, filtered, concentrated by rotary evaporation, and vacuum distilled to produce about 35% yield of P,P-bis(2,2-dimethyl-1-aziridinyl)-N-(3-dimethylaminopropyl)thiophosphinic amide.

reactant | P,P-bis(2,2-dimethyl-1-aziridinyl)thiophosphinic bromide | 0.025 moles | CC1(N(C1)P(=S)(N1C(C1)(C)C)Br)C | C8H16BrN2PS
reactant | 3-dimethylaminopropyl amine | 0.02 moles | CN(CCCN)C | C5H14N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | about 170 ml | C1CCOC1 | C4H8O
product | P,P-bis(2,2-dimethyl-1-aziridinyl)-N-(3-dimethylaminopropyl)thiophosphinic amide | about 35% yield | CC1(N(C1)P(NCCCN(C)C)(=S)N1C(C1)(C)C)C | C13H29N4PS
